US07173031B2
A) Ethyl 4-(2-fluoro-4-nitrophenoxy)-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carboxylate
To a mixture of ethyl 4-chloro-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carboxylate (24 mg, 0.10 mmol, preparation: See, U.S. Pat. No. 6,670,357, especially example 61, the disclosure of which is hererin incorporated by reference), 2-fluoro-4-nitrophenol (20 mg, 0.125 mmol) and K2CO3 (28 mg, 0.20 mmol) was added DMF (0.5 mL). The reaction was heated at 70° C. for 20 minutes, cooled to room temperature and 2 mL of water was added. The mixture was filtered, the solid was washed with water, and dried to give the title compound (36 mg, 100%) as a light yellow solid.

reactant | ethyl 4-chloro-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carboxylate | ClC1=NC=NN2C1=C(C(=C2)C(=O)OCC)C | C10H10ClN3O2
reactant | 2-fluoro-4-nitrophenol | 0.125 mmol, 20 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4FNO3
reactant | K2CO3 | 0.20 mmol, 28 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | water | 2 mL | O | H2O
product | Ethyl 4-(2-fluoro-4-nitrophenoxy)-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carboxylate | 36 mg, 100% | FC1=C(OC2=NC=NN3C2=C(C(=C3)C(=O)OCC)C)C=CC(=C1)[N+](=O)[O-] | C16H13FN4O5
